2149-05-17 05:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   49F with prescribed desipramine at home found with altered mental
   status at home with likely TCA overdose.
   24 Hour Events:
   -unable to place A line
                                     pH
                                    7.49
                                    pCO2
                                     46
                                     pO2
                                     117
                                    HCO3
                                     36
                                   BaseXS
                                     11
   Type:Art; Intubated; Vent:Controlled; FiO2%:50; Rate:20/5; TV:450;
   PEEP:5; Temp:38.5
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2149-5-17**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-17**] 05:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.5
C (95.9
   HR: 66 (61 - 67) bpm
   BP: 116/69(81) {82/39(59) - 117/94(100)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             9,965 mL
   PO:
             TF:
   IVF:
   2,965 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    170 mL
   Urine:
   170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  9,795 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/41/103//1
   Ve: 8.4 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Gen: Pt responds to name, able to squeeze hand intermittently
   HEENT: laceration on anterior tongue
   Cardiac: rrr n s1/s2 no m/r/g
   Lung: CTAB anteriorly
   Abd: decreased bowel sounds, slightly tense
   Extremities: hyperreflexive, myoclonic jerking, increased fluid in
   extremities but no pitting edema
   Labs / Radiology
   245 K/uL
   8.4 g/dL
   161
                               [image002.gif]
   [image002.gif]
                                      7
   [image004.gif]
   161
                                                                   AGap=11
   [image005.gif]
   3.1
                               [image002.gif]
                                     32
                               [image002.gif]
                                     0.6
   [image007.gif]
                           Ca: 6.6 Mg: 1.4 P: 1.4
   0.6
   32
   3.1
   1
   105
   145
   26.5 %
   7.5 K/uL
        [image009.jpg]
   Ca: 6.6 Mg: 1.4 P: 1.4
                             [**2149-5-16**]  11:35 PM
                             [**2149-5-17**]  04:30 AM
                             [**2149-5-17**]  05:06 AM
   WBC
   7.5
   Hct
   26.5
   Plt
   245
   TCO2
   24
   28
   Other labs: Differential-Neuts:80.8 %, Lymph:12.7 %, Mono:6.1 %,
   Eos:0.2 %, Lactic Acid:1.6 mmol/L
   Assessment and Plan
   49F with prescribed desipramine at home found with altered mental
   status at home with likely TCA overdose.
   .
   #. TCA overdose: Likely cause of her altered mental status on
   presentation given positive serum tox screen, and empty bottles in
   apartment. Serum tox negative for benzos, but unclear if patient also
   overdosed on other substances. Patient with evidence of both
   cardiotoxicity with widened QRS, and neurotoxicity with myoclonus,
   hyper-reflexia.
   - Toxicology recs obtained in ED which were as follows:
   -Continuing HCO3- drip at 150-200 cc/hr with goal ph 7.5-> 7.53 but
   would not hyperventilate to reach these goals, call give [**2-14**] amps push
   prn.
   -If arrythmia occurs pls call tox fellow and consider using lidocaine
   -sx will likely resolve in 24 hrs of admission
   -once qrs narrow can wean bicarb and check serial ekgs
   .
   Plan:
   - Toxocology following, appreciate recs
   - follow lytes, HCT, serial ABGs, lactate, free calcium
   - continue bicarb gtt  with goal pH 7.5-7.53
   -CT of the head as unsure if had trauma to look for bleed
   - rfollow EKGs - watch closely for QT interval, QRS complex - when QRS
   intervals longer than 100ms pts are at risk for seizures, with
   intervals >160ms are at risk for arrhythmias. - if arrythmia, chose
   lidocaine. QRS interval is evaluated best using the limb leads
   - Q4hr neuro checks, monitoring closely for hyperreflexia or signs of
   seizures.
   - Do thorough neuro exam once patient less sedated.
   - continue intubated for now, but when more stable, can start weaning
   down sedation and off vent
   - no therapeutic or prognostic utility to checking serum or urine TCA
   levels per literature
   - monitor on telemetry
   - try to obtain outside PCP records in AM about other medications or
   medical history
   -EEG if become concerned about ? seizure
   .
   # Hypotension/shock: Likely [**3-17**] effects from TCA overdose.
   -wean levophed as tolerated and neosynephrine
   -to keep MAP>65.
   ..
   #. Anemia - guiac positive brown stool in ED, NG lavage negative. Hct
   27. Unknown baseline Hct.
   - monitor for bleeding
   - trend Hct
   - maintain active T/C
   - 3 large PIVs, and femoral line, may need central line
   - continue to guiac stools
   .
   #. Depression/psych history
   - hold other psych meds, try to contact psychiatrist
   -psych c/s
   .
   FEN: NPO for now
   .
   PPX:
   -DVT ppx with SC heparin
   .
   ACCESS: PIV's - 16, 18, 18, femoral line. Will need to replace femoral
   line with IJ or subclavian CVL in AM.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-5-17**] 01:23 AM
   18 Gauge - [**2149-5-17**] 01:24 AM
   20 Gauge - [**2149-5-17**] 01:24 AM
   16 Gauge - [**2149-5-17**] 01:25 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: friends came to visit in unit today
   Code status: presumed full
   Disposition: ICU care for now

2149-05-17 09:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on neosinephrine vasopressor.
   Remains on HCO3 infusion.
 INVASIVE VENTILATION - START [**2149-5-17**] 01:15 AM
 MULTI LUMEN - START [**2149-5-17**] 01:23 AM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, mechanical
   ventilation
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2149-5-17**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-17**] 08:08 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2149-5-17**] 08:08 AM
   Fentanyl - [**2149-5-17**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   myoclonus
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-5-17**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 81 (61 - 83) bpm
   BP: 121/67(78) {82/39(59) - 145/94(100)} mmHg
   RR: 21 (17 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             12,206 mL
   PO:
             TF:
   IVF:
   4,936 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    590 mL
   Urine:
   590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 11,616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/46/117/26/11
   Ve: 8.4 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, myoclonus
   Labs / Radiology
   8.4 g/dL
   245 K/uL
   106 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.0 mEq/L
   8 mg/dL
   111 mEq/L
   145 mEq/L
   26.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2149-5-16**]  11:35 PM
                             [**2149-5-17**]  04:30 AM
                             [**2149-5-17**]  05:06 AM
                             [**2149-5-17**]  08:32 AM
   WBC
   7.5
   Hct
   26.5
   Plt
   245
   Cr
   0.5
   TropT
   <0.01
   TCO2
   24
   28
   36
   Glucose
   106
   Other labs: PT / PTT / INR:13.3/22.4/1.1, CK / CKMB /
   Troponin-T:60/3/<0.01, ALT / AST:13/21, Alk Phos / T Bili:47/0.1,
   Amylase / Lipase:38/, Differential-Neuts:80.8 %, Lymph:12.7 %, Mono:6.1
   %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, LDH:142 IU/L, Ca++:6.1 mg/dL,
   Mg++:1.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   49 yo female with suicide attempt/TCA overdose.
   TCA OVERDOSE --  has neuro and cardiac toxicity, with EKG changes and
   myoclonus.  Overall myoclonus gradually resolving.  Continue Bicarb gtt
   to maintain pH 7.5-7.55.  Check serial EKG's to track QRS morphology
   changes- QRS duration normalizing.  Monitor serial electrolytes.
   RESPIRATORY FAILURE --   Evidence for interval devlopment of LLL
   infiltrate.  Oxygenation and ventilation adequate on PEEP 5, FiO2 50%.
   Continue ventilator support.
   LLL INFILTRATE -- concern for aspiration or evolving aspiration
   pneumonia.  Close monitoring, low threshold for antimicrobials.
   ALTERED MENTAL STATUS -- attributed to TCA overdose.  Benzodiazepine
   infusion.  Monitor.  Consider EEG (continuous) to exclude status.
   SHOCK- suspect from TCA overdose - on neo infusion for MAP>65. If
   required, add levophed.
    ANEMIA -- unknown chronicity. Was guiac positive, though no overt
   bleeding and NG was negative.  Monitor serial Hct's.
   SUICIDE ATTEMPT -- will need 1:1 24-hr sitter and Psychiatry evaluation
   once awakens.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-5-17**] 01:23 AM
   18 Gauge - [**2149-5-17**] 01:24 AM
   20 Gauge - [**2149-5-17**] 01:24 AM
   16 Gauge - [**2149-5-17**] 01:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-05-18 05:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   increased midaz to 12/hr for myoclonic jerking
   Bicarb drip to keep VBG pH between 7.46-7.49
   Serial EKGs showed intitial improvement in QRS length then plateau at
   130ms
   PM Hct stable
   Found psychiatrist Koldzic [**Telephone/Fax (1) 6770**] and Rabbi [**First Name8 (NamePattern2) **] [**Last Name (Titles) 6771**]
   [**Telephone/Fax (1) 6772**]
   CT head was negative
   Ordered EEG
   Psych consult made aware
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 16 mg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2149-5-17**] 08:08 AM
   Fentanyl - [**2149-5-17**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-17**] 04:00 PM
   Midazolam (Versed) - [**2149-5-18**] 03:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-18**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.4
   HR: 70 (64 - 83) bpm
   BP: 100/58(68) {94/41(51) - 125/92(96)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 17,875 mL
                                                                  1,668 mL
   PO:
             TF:
   IVF:
                                                                 10,245 mL
                                                                  1,668 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    570 mL
   Urine:
                                                                  2,260 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 15,615 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 99%
   ABG: 7.49/46/117/30/11
   Ve: 8.5 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   8.3 g/dL
   103 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   4 mg/dL
   101 mEq/L
   136 mEq/L
   25.6 %
   8.5 K/uL
        [image002.jpg]
                             [**2149-5-16**]  11:35 PM
                             [**2149-5-17**]  04:30 AM
                             [**2149-5-17**]  05:06 AM
                             [**2149-5-17**]  07:26 AM
                             [**2149-5-17**]  08:32 AM
                             [**2149-5-17**]  11:35 AM
                             [**2149-5-17**]  04:32 PM
                             [**2149-5-17**]  08:30 PM
                             [**2149-5-17**]  10:23 PM
                             [**2149-5-18**]  02:35 AM
   WBC
   7.5
   8.5
   Hct
   26.5
   24.8
   25.6
   Plt
   245
   224
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   24
   28
   36
   Glucose
   106
   161
   105
   99
   106
   110
   103
   Other labs: PT / PTT / INR:13.3/22.4/1.1, CK / CKMB /
   Troponin-T:64/3/<0.01, ALT / AST:13/21, Alk Phos / T Bili:47/0.1,
   Amylase / Lipase:38/, Differential-Neuts:80.8 %, Lymph:12.7 %, Mono:6.1
   %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, LDH:142 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   49F with prescribed desipramine at home found with altered mental
   status at home with likely TCA overdose.
   .
   #. TCA overdose: Likely cause of her altered mental status on
   presentation given positive serum tox screen, and empty bottles in
   apartment. Serum tox negative for benzos, but unclear if patient also
   overdosed on other substances. Patient with evidence of both
   cardiotoxicity with widened QRS, and neurotoxicity with myoclonus,
   hyper-reflexia.
   - Toxicology recs obtained in ED which were as follows:
   -Continuing HCO3- drip at 150-200 cc/hr with goal ph 7.5-> 7.53 but
   would not hyperventilate to reach these goals, call give [**2-14**] amps push
   prn.
   -If arrythmia occurs pls call tox fellow and consider using lidocaine
   -sx will likely resolve in 24 hrs of admission
   -once qrs narrow can wean bicarb and check serial ekgs
   .
   Plan:
   - Toxocology following, appreciate recs
   - follow lytes, HCT, serial ABGs, lactate, free calcium
   - continue bicarb gtt  with goal pH 7.5-7.53
   -CT of the head as unsure if had trauma to look for bleed
   - rfollow EKGs - watch closely for QT interval, QRS complex - when QRS
   intervals longer than 100ms pts are at risk for seizures, with
   intervals >160ms are at risk for arrhythmias. - if arrythmia, chose
   lidocaine. QRS interval is evaluated best using the limb leads
   - Q4hr neuro checks, monitoring closely for hyperreflexia or signs of
   seizures.
   - Do thorough neuro exam once patient less sedated.
   - continue intubated for now, but when more stable, can start weaning
   down sedation and off vent
   - no therapeutic or prognostic utility to checking serum or urine TCA
   levels per literature
   - monitor on telemetry
   - try to obtain outside PCP records in AM about other medications or
   medical history
   -EEG if become concerned about ? seizure
   .
   # Hypotension/shock: Likely [**3-17**] effects from TCA overdose.
   -wean levophed as tolerated and neosynephrine
   -to keep MAP>65.
   ..
   #. Anemia - guiac positive brown stool in ED, NG lavage negative. Hct
   27. Unknown baseline Hct.
   - monitor for bleeding
   - trend Hct
   - maintain active T/C
   - 3 large PIVs, and femoral line, may need central line
   - continue to guiac stools
   .
   #. Depression/psych history
   - hold other psych meds, try to contact psychiatrist
   -psych c/s
   .
   FEN: NPO for now
   .
   PPX:
   -DVT ppx with SC heparin
   .
   ACCESS: PIV's - 16, 18, 18, femoral line. Will need to replace femoral
   line with IJ or subclavian CVL in AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-5-17**] 01:23 AM
   20 Gauge - [**2149-5-17**] 01:24 AM
   16 Gauge - [**2149-5-17**] 01:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-05-18 10:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Off vasopressors.
   Sedated with benzodiazepines, now on higher dose.
   Continues with myoclonic jerks, perhaps less clinically apparent.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 18 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-18**] 08:00 AM
   Midazolam (Versed) - [**2149-5-18**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-5-18**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 70 (64 - 79) bpm
   BP: 93/61(67) {93/41(51) - 130/97(106)} mmHg
   RR: 22 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 17,895 mL
                                                                  3,259 mL
   PO:
             TF:
   IVF:
                                                                 10,265 mL
                                                                  3,259 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                  1,740 mL
   Urine:
                                                                  2,260 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 15,635 mL
                                                                  1,519 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, myoclonus
   Labs / Radiology
   8.3 g/dL
   224 K/uL
   128 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.2 mEq/L
   4 mg/dL
   98 mEq/L
   134 mEq/L
   25.6 %
   8.5 K/uL
        [image002.jpg]
                             [**2149-5-17**]  04:30 AM
                             [**2149-5-17**]  05:06 AM
                             [**2149-5-17**]  07:26 AM
                             [**2149-5-17**]  08:32 AM
                             [**2149-5-17**]  11:35 AM
                             [**2149-5-17**]  04:32 PM
                             [**2149-5-17**]  08:30 PM
                             [**2149-5-17**]  10:23 PM
                             [**2149-5-18**]  02:35 AM
                             [**2149-5-18**]  07:18 AM
   WBC
   7.5
   8.5
   Hct
   26.5
   24.8
   25.6
   Plt
   245
   224
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   28
   36
   Glucose
   106
   161
   105
   99
   106
   110
   103
   128
   Other labs: PT / PTT / INR:13.3/22.4/1.1, CK / CKMB /
   Troponin-T:60/3/<0.01, ALT / AST:13/21, Alk Phos / T Bili:47/0.1,
   Amylase / Lipase:38/, Differential-Neuts:80.8 %, Lymph:12.7 %, Mono:6.1
   %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, LDH:142 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   49 yo female with suicide attempt/TCA overdose.
   TCA OVERDOSE --  evidence for neuro and cardiac toxicity, with EKG
   changes and myoclonus.  Overall myoclonus gradually resolving.
   Continue Bicarb gtt to maintain pH 7.5-7.55.  Check serial EKG's to
   track QRS morphology changes- QRS duration variable.  Monitor serial
   electrolytes.  Toxicology Consultant following.
   RESPIRATORY FAILURE --   Evidence for interval devlopment of LLL
   infiltrate, now progressed to bilateral lower lung field densities --
   suspect bilateral pleural effusions.  Oxygenation and ventilation
   adequate on PEEP 5, FiO2 50%. Continue ventilator support.
   LLL INFILTRATE -- concern for aspiration or evolving aspiration
   pneumonia.  Close monitoring, low threshold for antimicrobials as at
   risk for pneumonia.
   ALTERED MENTAL STATUS -- attributed to TCA overdose.  Benzodiazepine
   infusion.  Monitor.  Consider EEG (continuous) to exclude status
   epilepticus.
   SHOCK- suspect from TCA overdose --> now off vasopressors.  Resolved.
   Monitor BP.
   ANEMIA -- unknown chronicity. Was guiac positive, though no overt
   bleeding and NG was negative.  Monitor serial Hct's.
   FLUIDS -- dramatic net positive.  Desire continued HCO3 drip, but hope
   to see net diuresis.
   RENAL FUNCTION -- preserved.  Monitor creat, BUN, UO.
   HYPOKALEMIA -- replete to K>4.0
   HYPOPHOSPHATEMIA -- replete
   ILEUS -- likely related to TCA overdose.  Monitor exam.
   NUTRITIONAL SUPPORT -- hope to initiate TF, but may be limited by
   ileus.
   SUICIDE ATTEMPT -- will need 1:1 24-hr sitter and Psychiatry evaluation
   once awakens.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-5-17**] 01:23 AM
   20 Gauge - [**2149-5-17**] 01:24 AM
   16 Gauge - [**2149-5-17**] 01:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-05-19 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  49F found down s/p desipramine OD
   24 Hour Events:
   - Serial EKGs performed.  QRS duration is ~ 130s.
   - Patient had increasing oxygen requirement, increased FiO2 to 50%
   - CXR consistent with pulmonary congrestion
   - Consulted Toxicology, re: role of continued high dose bicarb.
   Decreased Bicarb rate to 130cc/hr.
   - Decreased Midazolam from 18 to 14.
   - VBGs were mildly alkalotic
   - On levo since 8pm to keep MAP > 60.
   - Weaned to pressure support
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 13 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-5-18**] 04:54 PM
   Heparin Sodium (Prophylaxis) - [**2149-5-18**] 10:10 PM
   Midazolam (Versed) - [**2149-5-19**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-19**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 78 (69 - 81) bpm
   BP: 115/63(76) {82/33(38) - 190/146(111)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,868 mL
                                                                  1,253 mL
   PO:
             TF:
                                                                     42 mL
   IVF:
                                                                  7,826 mL
                                                                  1,253 mL
   Blood products:
   Total out:
                                                                  5,140 mL
                                                                  1,140 mL
   Urine:
                                                                  5,140 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,728 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 498 (498 - 498) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.53/41/61/31/10
   Ve: 8 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Gen: Sedated on vent, Nonresponsive, twitching of extremities and head
   randomly and in a/w stimuli
   HEENT: Pupils equal and reactive to light, vertical and horizontal
   nystagmus
   Heart: RRR, No MRG
   Lungs: Mild crackels Anterolaterally
   Abd: Soft, NT, mildly distended, no bowel sounds, edema of abdominal
   wall
   Ext: Edema in upper and lower extremities bilaterally
   Neuro: 2+ knee reflexes bilaterally, 2 beats of clonus in feet
   bilaterally
   Labs / Radiology
   210 K/uL
   7.7 g/dL
   114 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   4 mg/dL
   101 mEq/L
   135 mEq/L
   23.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2149-5-17**]  08:30 PM
                             [**2149-5-17**]  10:23 PM
                             [**2149-5-18**]  02:35 AM
                             [**2149-5-18**]  07:18 AM
                             [**2149-5-18**]  11:46 AM
                             [**2149-5-18**]  03:42 PM
                             [**2149-5-18**]  04:43 PM
                             [**2149-5-18**]  08:20 PM
                             [**2149-5-19**]  01:00 AM
                             [**2149-5-19**]  05:33 AM
   WBC
   8.5
   9.0
   10.3
   Hct
   25.6
   23.3
   23.3
   Plt
   [**Telephone/Fax (3) 6800**]
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TropT
   <0.01
   TCO2
   35
   Glucose
   106
   110
   103
   128
   117
   123
   122
   107
   114
   Other labs: PT / PTT / INR:13.3/22.4/1.1, CK / CKMB /
   Troponin-T:73/3/<0.01, ALT / AST:32/37, Alk Phos / T Bili:77/0.1,
   Amylase / Lipase:37/, Differential-Neuts:80.8 %, Lymph:12.7 %, Mono:6.1
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:142 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   49F found down s/p desipramine OD, currently
   .
   #s/p TCA overdose:  Patient now 48-72 hours s/p ingestion.  On
   levophed.  QRS duration has been stable and is approx 130ms.  Patient
   was weaned on bicarb gtt yesterday.  Patient is still having myoclonic
   jerks while on Midazolam (unclear if patient is having seizure);
   patient being weaned from Midazolam.  No need for further VBGs.
   Patient persistently hypotensive, on low dose of levophed.  Patient had
   EEG yesterday, unread.
   - Per [**Last Name (LF) **], [**First Name3 (LF) **] d/c Bicarb gtt and recheck EKG 30mins post
   - [**Hospital1 7**] EKGs
   - Wean levophed as tolerated
   - f/u EEG, consider Neuro consult.
   .
   # Aspiration Pneumonia, suspected:  TMax 101.4 this AM.  Patient has no
   definite source for infection, but had a LLL questionable infiltrate
   that may have been related to aspiration pneumonia on presentation.
   Patient
s CXR last night was c/w fluid overload.  Mindful that if
   having trouble weaning patient from levophed, sepsis should be
   considered if persistently febrile.
   - Start Vancomycin/CTX
   - f/u BCx, sputum if available
   # Respiratory:  Patient s/p elective intubation with increasing oxygen
   requirement, currently on 100%.  Patient
s CXR c/w overload, as patient
   is 19L positive for LOS and is volume overloaded on exam.  Patient has
   had good urine output and it is likely that her increasing oxygen
   requirement is from the large volume of fluid she received +/- presumed
   LLL Aspiration PNA.
   - Hold fluids, allow patient to autodiurese
   #Bipolar disorder/Depression:  Patient has no history of prior sucide
   attempts.  Contact[**Name (NI) **] covering psychiatrist; will contact [**Name (NI) 1**] team once
   chart reviewed.
   - psyc to follow when able to speak
   #Ileus: likely [**3-17**] anticholinergic effect of TCA.
   ..
   #. Anemia - guiac positive brown stool in ED, NG lavage negative. Hct
   27. Unknown baseline Hct.
   - monitor for bleeding
   - trend Hct
   .
   FEN: Consider restarting TF later today
   .
   PPX:
   -DVT ppx with SC heparin
   .
   ACCESS: PIV's - 16, 18, 18, femoral line. Consider d/c femline when no
   longer needing frequent electrolyte repletion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-5-17**] 01:23 AM
   16 Gauge - [**2149-5-17**] 01:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-05-19 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Higher FiO2
   Continues to exhibit myoclonus.
   EEG performed.
   Vasopressor resumed for hypotension.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 13 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2149-5-19**] 12:05 AM
   Pantoprazole (Protonix) - [**2149-5-19**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-19**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-5-19**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 78 (69 - 81) bpm
   BP: 113/65(78) {82/33(38) - 190/146(111)} mmHg
   RR: 27 (19 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,868 mL
                                                                  1,678 mL
   PO:
             TF:
                                                                     42 mL
   IVF:
                                                                  7,826 mL
                                                                  1,678 mL
   Blood products:
   Total out:
                                                                  5,140 mL
                                                                  1,640 mL
   Urine:
                                                                  5,140 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,728 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 378 (378 - 498) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 92%
   ABG: 7.53/41/61/31/10
   Ve: 8.3 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Increased, myoclonus
   Labs / Radiology
   7.7 g/dL
   210 K/uL
   114 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   4 mg/dL
   101 mEq/L
   135 mEq/L
   23.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2149-5-17**]  08:30 PM
                             [**2149-5-17**]  10:23 PM
                             [**2149-5-18**]  02:35 AM
                             [**2149-5-18**]  07:18 AM
                             [**2149-5-18**]  11:46 AM
                             [**2149-5-18**]  03:42 PM
                             [**2149-5-18**]  04:43 PM
                             [**2149-5-18**]  08:20 PM
                             [**2149-5-19**]  01:00 AM
                             [**2149-5-19**]  05:33 AM
   WBC
   8.5
   9.0
   10.3
   Hct
   25.6
   23.3
   23.3
   Plt
   [**Telephone/Fax (3) 6800**]
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TropT
   <0.01
   TCO2
   35
   Glucose
   106
   110
   103
   128
   117
   123
   122
   107
   114
   Other labs: PT / PTT / INR:13.3/22.4/1.1, CK / CKMB /
   Troponin-T:73/3/<0.01, ALT / AST:32/37, Alk Phos / T Bili:77/0.1,
   Amylase / Lipase:37/, Differential-Neuts:80.8 %, Lymph:12.7 %, Mono:6.1
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:142 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   49 yo female with suicide attempt/TCA overdose.
   TCA OVERDOSE --  Continues to exhibit evidence for neuro and cardiac
   toxicity, with EKG changes and myoclonus.  Overall myoclonus gradually
   improving.  Continue Bicarb gtt to maintain pH 7.5-7.55.  Check serial
   EKG's to track QRS morphology changes- QRS duration variable.  Monitor
   serial electrolytes.  Toxicology Consultant following.
   RESPIRATORY FAILURE --  Evidence for interval devlopment of LLL
   infiltrate, now progressed to bilateral lower lung field densities --
   suspect bilateral pleural effusions.  Oxygenation and ventilation
   adequate on PEEP 5, FiO2 60%. Continue ventilator support.
   HYPOXEMIA -- attributed to volume overload (resussitation), but also
   consider progression of LLL infiltrate (probable aspiration pneumonia).
   LLL INFILTRATE -- concern for aspiration or evolving aspiration
   pneumonia.  Close monitoring, low threshold for antimicrobials as at
   risk for pneumonia.
   ALTERED MENTAL STATUS -- attributed to TCA overdose.  Benzodiazepine
   infusion.  Monitor.  Consider EEG (continuous) to exclude status
   epilepticus.
   SHOCK- suspect from TCA overdose.  Now back on vasopressors.  Concern
   for medicatoin effect, or evolving sepsis.
   ANEMIA -- unknown chronicity. Was guiac positive, though no overt
   bleeding and NG was negative.  Monitor serial Hct's.
   FLUIDS -- dramatic net positive.  Desire to discontinued HCO3 drip -->
   now desire net diuresis.
   RENAL FUNCTION -- preserved.  Monitor creat, BUN, UO.
   HYPOKALEMIA -- replete to K>4.0
   HYPOPHOSPHATEMIA -- replete.
   ILEUS -- likely related to TCA overdose.  Should resolve.  Bowel
   regimen.  Monitor exam.
   NUTRITIONAL SUPPORT -- hope to initiate TF, but may be limited by
   ileus.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-5-17**] 01:23 AM
   16 Gauge - [**2149-5-17**] 01:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-05-20 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   49F found down s/p desipramine OD
   24 Hour Events:
   -ABG showing poor oxygenation
   -A line placed
   -Triple lumen central line placed
   - d/c bicarb gtt
   - AM CXR wet & CXR later in the day with air bronchogram and concern
   for ARDS
   - started on vancomycin and ceftriaxone for PNA
   - Vent changed to ARDS protocal with TV 350
   - pt even for shift and goal was even
   -rash on forehead developed and resolved
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-19**] 10:54 AM
   Ceftriaxone - [**2149-5-19**] 11:00 AM
   Infusions:
   Midazolam (Versed) - 13 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-5-19**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-19**] 05:11 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2149-5-20**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-20**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.1
C (98.7
   HR: 91 (75 - 109) bpm
   BP: 77/55(61) {77/43(56) - 117/66(78)} mmHg
   RR: 10 (10 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (10 - 22)mmHg
   Total In:
                                                                  2,942 mL
                                                                    996 mL
   PO:
   TF:
                                                                    134 mL
                                                                     70 mL
   IVF:
                                                                  2,688 mL
                                                                    726 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    470 mL
   Urine:
                                                                  2,720 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    222 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 450) mL
   Vt (Spontaneous): 0 (0 - 378) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   PIP: 25 cmH2O
   Plateau: 28 cmH2O
   Compliance: 31.8 cmH2O/mL
   SpO2: 92%
   ABG: 7.37/46/80.[**Numeric Identifier 176**]/30/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 80
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   7.5 g/dL
   97 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.3 mEq/L
   8 mg/dL
   99 mEq/L
   133 mEq/L
   23.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2149-5-18**]  11:46 AM
                             [**2149-5-18**]  03:42 PM
                             [**2149-5-18**]  04:43 PM
                             [**2149-5-18**]  08:20 PM
                             [**2149-5-19**]  01:00 AM
                             [**2149-5-19**]  05:33 AM
                             [**2149-5-19**]  04:26 PM
                             [**2149-5-19**]  07:48 PM
                             [**2149-5-20**]  01:38 AM
                             [**2149-5-20**]  03:02 AM
   WBC
   9.0
   10.3
   12.0
   Hct
   23.3
   23.3
   23.4
   Plt
   [**Telephone/Fax (3) 6822**]
   Cr
   0.6
   0.7
   0.6
   0.6
   0.8
   TropT
   <0.01
   TCO2
   35
   33
   32
   28
   Glucose
   117
   123
   122
   107
   114
   97
   Other labs: PT / PTT / INR:15.2/30.3/1.3, CK / CKMB /
   Troponin-T:73/3/<0.01, ALT / AST:32/37, Alk Phos / T Bili:77/0.1,
   Amylase / Lipase:37/, Differential-Neuts:80.8 %, Lymph:12.7 %, Mono:6.1
   %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:142 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   49F found down s/p desipramine OD, currently
   .
   #s/p TCA overdose:  Patient now 48-72 hours s/p ingestion.  On
   levophed.  QRS duration has been stable and is approx 130ms.  Patient
   was weaned on bicarb gtt yesterday.  Patient is still having myoclonic
   jerks while on Midazolam (unclear if patient is having seizure);
   patient being weaned from Midazolam.  No need for further VBGs.
   Patient persistently hypotensive, on low dose of levophed.  Patient had
   EEG yesterday, unread.
   - Per [**Last Name (LF) **], [**First Name3 (LF) **] d/c Bicarb gtt and recheck EKG 30mins post
   - [**Hospital1 7**] EKGs
   - Wean levophed as tolerated
   - f/u EEG, consider Neuro consult.
   .
   # Aspiration Pneumonia, suspected:  TMax 101.4 this AM.  Patient has no
   definite source for infection, but had a LLL questionable infiltrate
   that may have been related to aspiration pneumonia on presentation.
   Patient
s CXR last night was c/w fluid overload.  Mindful that if
   having trouble weaning patient from levophed, sepsis should be
   considered if persistently febrile.
   - Start Vancomycin/CTX
   - f/u BCx, sputum if available
   # Respiratory:  Patient s/p elective intubation with increasing oxygen
   requirement, currently on 100%.  Patient
s CXR c/w overload, as patient
   is 19L positive for LOS and is volume overloaded on exam.  Patient has
   had good urine output and it is likely that her increasing oxygen
   requirement is from the large volume of fluid she received +/- presumed
   LLL Aspiration PNA.
   - Hold fluids, allow patient to autodiurese
   #Bipolar disorder/Depression:  Patient has no history of prior sucide
   attempts.  Contact[**Name (NI) **] covering psychiatrist; will contact [**Name (NI) 1**] team once
   chart reviewed.
   - psyc to follow when able to speak
   #Ileus: likely [**3-17**] anticholinergic effect of TCA.
   ..
   #. Anemia - guiac positive brown stool in ED, NG lavage negative. Hct
   27. Unknown baseline Hct.
   - monitor for bleeding
   - trend Hct
   .
   FEN: Consider restarting TF later today
   .
   PPX:
   -DVT ppx with SC heparin
   .
   ACCESS: PIV's - 16, 18, 18, femoral line. Consider d/c femline when no
   longer needing frequent electrolyte repletion
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2149-5-19**] 10:36 AM 10 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2149-5-17**] 01:25 AM
   Multi Lumen - [**2149-5-20**] 06:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: